US05403927
M. 2-O-β-D-glucopyranosyl-D-glucose (β-D-Glcp-(1-2)-D-Glc)
This oligosaccharide (5 μmol), sodium acetate (10 μmol) and o-tolylhydrazine hydrochloride (30 μmol) were dissolved in 0.15 mL water in a small vial (Pierce reacti-vial, 0.2 mL capacity, with Tuf-bond Teflon-silicone cap seals). The vial was sealed under argon and warmed on a heating block to 70° C. for 6 hours; the solution became yellow over time and gave a yellow crystalline precipitate, which increased upon cooling to room temperature overnight. The water-insoluble material was the cleavage product, glucose o-tolylosazone (D-arabino-hexos-2-ulose o-tolylosazone. The water soluble fraction contained 2-Oβ-D-glucopyranosyl-D-glucose o-tolylhydrazone, and small amounts of D-glucose and the starting oligosaccharide.

reactant | sodium acetate | 10 μmol | C(C)(=O)[O-].[Na+]
reactant | o-tolylhydrazine hydrochloride | 30 μmol | Cl.C1(=C(C=CC=C1)NN)C
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | D-arabino-hexos-2-ulose | O=CC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H10O6
solvent | water | 0.15 mL | O | H2O
product | 2-O-β-D-glucopyranosyl-D-glucose | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H](C=O)[C@@H](O)[C@H](O)[C@H](O)CO | C12H22O11
